US06703391B2
N-(1,2,3,4-tetrahydro-2-propyl-5-isoquinolinyl)-acetamide
A solution of 5-nitroisoquinoline (25 g, 0.144 mol) and iodopropane (36.7 g, 0.216 mol) in 500 mL of EtOH was converted to the title compound by the procedures described in Example 1. The crude title compound was purified by chromatography (silica gel, 95:5 EtOAc:EtOH). The purified product was recrystallized from iPr2O/THF to give the title compound as a white solid (3.33 g, 18%), mp=123° C.

reactant | 5-nitroisoquinoline | 0.144 mol, 25 g | [N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | C9H6N2O2
reactant | iodopropane | 0.216 mol, 36.7 g | ICCC | C3H7I
reactant | EtOH | 500 mL | CCO | C2H6O
product | N-(1,2,3,4-tetrahydro-2-propyl-5-isoquinolinyl)-acetamide | C(CC)N1CC2=CC=CC(=C2CC1)NC(C)=O | C14H20N2O
